US06472386B1
Synthesis of 4-(tert-Butyldimethylsilyloxymethyl)-1-(3,4,5-trimethoxyphenyl)imidazole
3,4,5-Trimethoxyphenylboronic acid (1.56 g) and 4-(tert-butyldimethylsilyloxymethyl)imidazole (1.26 g) were dissolved in dichloromethane (10 mL), and to the solution pyridine (562 mg) was added. Bisacetoxycopper (1.29 g) was then added to the mixture, and the mixture was stirred overnight at room temperature under an argon atmosphere. The reaction mixture was concentrated under reduced pressure, and the residue was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (chloroform:methanol=50:1) to obtain the title compound.

reactant | 3,4,5-Trimethoxyphenylboronic acid | 1.56 g | COC=1C=C(C=C(C1OC)OC)B(O)O | C9H13BO5
reactant | 4-(tert-butyldimethylsilyloxymethyl)imidazole | 1.26 g | [Si](C)(C)(C(C)(C)C)OCC=1N=CNC1 | C10H20N2OSi
reactant | pyridine | 562 mg | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | Bisacetoxycopper | 1.29 g | C(C)(=O)O[Cu]OC(C)=O
product | 4-(tert-Butyldimethylsilyloxymethyl)-1-(3,4,5-trimethoxyphenyl)imidazole | [Si](C)(C)(C(C)(C)C)OCC=1N=CN(C1)C1=CC(=C(C(=C1)OC)OC)OC | C19H30N2O4Si
